US06100275
3-(4-Chlorophenyl)8-methyl-8-azabicyclo[3.2.1]octan-3-ol
The title compound was prepared from 4-bromochlorobenzene (15.4 g, 81 mmol), n-butyllithium in hexanes (31 mL 2.5 M; 78 mmol) and 8-methyl-8-azabicyclo[3.2.1]-octan-3-one (5 g, 36 mmol). Yield 5.7 g (63%) as a white solid, m.p. 186.3-187° C.

reactant | 4-bromochlorobenzene | 81 mmol, 15.4 g | BrC1=CC=C(C=C1)Cl | C6H4BrCl
reactant | n-butyllithium | C(CCC)[Li]
reactant | 8-methyl-8-azabicyclo[3.2.1]-octan-3-one | 36 mmol, 5 g | CN1C2CC(CC1CC2)=O | C8H13NO
product | 3-(4-Chlorophenyl)8-methyl-8-azabicyclo[3.2.1]octan-3-ol | ClC1=CC=C(C=C1)C1(CC2CCC(C1)N2C)O | C14H18ClNO
